US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added 3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-phenylamine (0.141 mg, 0.57 mmol, 1.0 eq.), 1-(4-fluoro-phenylcarbamoyl)-carboxylic acid (0.193 g, 0.88 mmol), HATU (0.584 g, 1.14 mmol), triethylamine (0.23 ml, 1.3 mmol) and anhydrous DMF (5 ml). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with H2O (100 ml) and extracted with CHCl3 (3×). The combined organic extractions were washed with H2O (1×), sat'd NaHCO3 (2×), 10% LiCl (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The resulting crude residue was purified by HPLC to yield N-(4-fluorophenyl)-N′-[3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]propanediamide as a white solid (0.051 g, 21% yield). 1H NMR (400 MHz, DMSO): 12.30 (s, 1H), 10.49 (s, 1H), 10.28 (s, 1H), 8.29(s, 1H), 7.80 (dd, 1H), 7.65 (m, 2H), 7.51 (m, 1H), 7.40 (m, 2H), 7.19 (m, 2H), 6.58 (d, 1H), 3.49 (s, 2H); MS (ESI) for C21H15F2N5O3: 424 (MH+).

reactant | 3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-phenylamine | 0.57 mmol, 0.141 mg, 1.0 eq. | FC=1C=C(C=CC1OC=1C2=C(N=CN1)NC=C2)N | C12H9FN4O
reactant | HATU | 1.14 mmol, 0.584 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.3 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | H2O | 100 ml | O | H2O
product | N-(4-fluorophenyl)-N′-[3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]propanediamide | 0.051 g, 21% yield | FC1=CC=C(C=C1)NC(CC(=O)NC1=CC(=C(C=C1)OC=1C2=C(N=CN1)NC=C2)F)=O | C21H15F2N5O3
